US06599917B1
c) 4-(α-Hydroxybenzyl)-2-methoxypyridine
9.4 g of sodium borohydride was added little by little to a mixture of 130 g of 4-benzoyl-2-methoxypyridine and 300 ml of methanol under stirring in an ice bath. After the dropwise addition was completed, the mixture was stirred at room temperature overnight. The reaction solution was added to 1 L of water and then extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and then the solvent was removed, to give 104 g of the target compound.

reactant | sodium borohydride | 9.4 g | [BH4-].[Na+]
reactant | 4-benzoyl-2-methoxypyridine | 130 g | C(C1=CC=CC=C1)(=O)C1=CC(=NC=C1)OC | C13H11NO2
reactant | methanol | 300 ml | CO | CH4O
solvent | water | 1 L | O | H2O
product | 4-(α-Hydroxybenzyl)-2-methoxypyridine | 104 g | OC(C1=CC=CC=C1)C1=CC(=NC=C1)OC | C13H13NO2
